US20010056123A1
Step 2: Synthesis of 4-iodo-3-[(2R)-(1-t-butoxycarbonyl-pyrrolidine-2-ylmethoxy)]benzonitrile:
2.0 g (8.16 mmol) of 3-hydroxy-4-iodobenzonitrile was dissolved in 20 ml of DMF. 5.8 g (16.3 mmol) of 1-t-butoxycarbonyl-(2R)-2-(p-tolylmethanesulfonyloxymethyl)pyrrolidine and 3.37 g (24.4 mmol) of potassium carbonate were added to the obtained solution, and they were stirred at 50° C. for 16 hours. 1.5 g (4.2 mmol) of 1-t-butoxycarbonyl-(2R)-2-(p-tolylmethanesulfonyloxymethyl)pyrrolidine was added to the obtained mixture, and they were stirred at 50° C. for 4 hours. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-hydroxy-4-iodobenzonitrile | 8.16 mmol, 2.0 g | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | 1-t-butoxycarbonyl-(2R)-2-(p-tolylmethanesulfonyloxymethyl)pyrrolidine | 16.3 mmol, 5.8 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COS(=O)(=O)CC1=CC=C(C=C1)C | C18H27NO5S
reactant | potassium carbonate | 24.4 mmol, 3.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-t-butoxycarbonyl-(2R)-2-(p-tolylmethanesulfonyloxymethyl)pyrrolidine | 4.2 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COS(=O)(=O)CC1=CC=C(C=C1)C | C18H27NO5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-iodo-3-[(2R)-(1-t-butoxycarbonyl-pyrrolidine-2-ylmethoxy)]benzonitrile | IC1=C(C=C(C#N)C=C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C17H21IN2O3
